US08008307B2
Step b: 6-chloro-1,1-dimethylindane
To a solution of concentrated sulfuric acid (3.00 mL, 0.056 mol) in water (0.28 mL, 0.0156 mol) was added 1-(4-chlorophenyl)-3-methylbutan-2-ol (1.00 g, 0.00503 mol) over 30 minutes. Additional sulfuric acid was added to dissolve the solid. The mixture was stirred for 2 hours. The mixture was poured onto ice then extracted with ether. The organic phase was washed (water), dried (MgSO4), filtered, and concentrated. The residue was filtered through a plug of silica with CH2Cl2 to afford the title compound (0.568 g, 63%).

reactant | sulfuric acid | 0.056 mol, 3.00 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 0.0156 mol, 0.28 mL | O | H2O
reactant | 1-(4-chlorophenyl)-3-methylbutan-2-ol | 0.00503 mol, 1.00 g | ClC1=CC=C(C=C1)CC(C(C)C)O | C11H15ClO
product | 6-chloro-1,1-dimethylindane | 0.568 g, 63% | ClC1=CC=C2CCC(C2=C1)(C)C | C11H13Cl
